US08377938B2
Example 1-2)N-(2-Fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrobromide
After suspending N-(2-fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide (55.7 mg) in water (1.67 ml), 48% aqueous hydrobromic acid (0.010 ml) was added at room temperature to form an aqueous solution. A dry ice/ethanol bath was used to freeze the aqueous solution, after which it was lyophilized under reduced pressure for 27 hours to give the title compound (70.7 mg) as white powder.

reactant | N-(2-fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide | 55.7 mg | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | C35H41F2N7O4
reactant | hydrobromic acid | 0.010 ml | Br | BrH
solvent | water | 1.67 ml | O | H2O
product | N-(2-Fluoro-4-{[2-({[4-(4-methylpiperazin-1-yl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrobromide | 70.7 mg | Br.FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCN(CC1)C)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | InChI=1S/C35H41F2N7O4.BrH/c1-42-16-18-43(19-17-42)26-9-14-44(15-10-26)34(47)41-31-21-28(8-13-38-31)48-27-6-7-30(29(37)20-27)40-33(46)23-35(11-12-35)22-32(45)39-25-4-2-24(36)3-5-25;/h2-8,13,20-21,26H,9-12,14-19,22-23H2,1H3,(H,39,45)(H,40,46)(H,38,41,47);1H
